US07320973B2
A solution of 2-(4-bromophenethoxy)tetrahydro-2H-pyran (28.01 g, 98.39 mmol) in toluene (100 ml) and pyrrolidine (9.93 ml, 119 mmol) were added to a mixture of dry palladium acetate (270 mg, 1.20 mmol), 2-(di-t-butylphosphino)biphenyl (720 mg, 2.40 mmol) and sodium t-butoxide (14.42 g, 150 mmol), and they were stirred at 70° C. for 12 hours. Water was added to the reaction mixture. After the extraction with ethyl acetate, the product was extracted from the organic layer with 1 M hydrochloric acid. The aqueous layer was neutralized with an aqueous sodium hydroxide solution and extracted with ethyl acetate. The organic layer was dried to obtain 4-pyrrolidinophenethyl alcohol in the form of a light yellow solid (16.41 g, 87%).

reactant | 2-(4-bromophenethoxy)tetrahydro-2H-pyran | 98.39 mmol, 28.01 g | BrC1=CC=C(CCOC2OCCCC2)C=C1 | C13H17BrO2
reactant | pyrrolidine | 119 mmol, 9.93 ml | N1CCCC1 | C4H9N
reactant | 2-(di-t-butylphosphino)biphenyl | 2.40 mmol, 720 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | sodium t-butoxide | 150 mmol, 14.42 g | CC(C)([O-])C.[Na+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 1.20 mmol, 270 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | Water | O | H2O
product | 4-pyrrolidinophenethyl alcohol | N1(CCCC1)C1=CC=C(CCO)C=C1 | C12H17NO
